US06177440B1
A solution of the 9-[(2,6-difluorophenyl)methyl]-4-hydroxy-5-carbomethoxy carbazole (514 mg, 1.4 mM) in 5 mL THF and 20 mL concentrated aqueous ammonium hydroxide was stirred at room temperature for 64 hours. The pH was adjusted to 10.5 with 5 N HCl. The resultant precipitate was collected by filtration, resuspended in H2O, adjusted the pH to 11.7 with concentrated ammonium hydroxide. The resultant precipitate was collected by filtration. The precipitate was dissolved in ethyl acetate, washed three times with 5 N NaOH, H2O, and saturated brine, dried over anhydrous magnesium sulfate, filtered, concentrated to afford 310 mg (70%) of the 9-[(2,6-difluorophenyl)methyl]-4-hydroxy-5-carbamoyl carbazole as a yellow solid. 1H NMR (DMSO-d6) δ 10.4 (s, 1H), 8.8 (br s, 1H), 8.4 (br s, 1H), 7.8 (d, 1H, J=8 Hz), 7.6-7.0 (m, 7H), 6.6 (d, 1H, J=8 Hz), and 5.7 (s, 2H). IR (KBr, cm−1) 3404, 3113, 1626, and 1587. MS (ES) m/e 351, 353.

reactant | 9-[(2,6-difluorophenyl)methyl]-4-hydroxy-5-carbomethoxy carbazole | 1.4 mM, 514 mg | FC1=C(C(=CC=C1)F)CN1C2=CC=CC(=C2C=2C(=CC=CC12)O)C(=O)OC | C21H15F2NO3
reactant | HCl | 5 N | Cl | ClH
reactant | ammonium hydroxide | 20 mL | [OH-].[NH4+]
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | 9-[(2,6-difluorophenyl)methyl]-4-hydroxy-5-carbamoyl carbazole | 310 mg, 70% | FC1=C(C(=CC=C1)F)CN1C2=CC=CC(=C2C=2C(=CC=CC12)O)C(N)=O | C20H14F2N2O2
